US05073629
4,4-diphenyl-6-hepten-3-one (144 mg) was dissolved in a mixture of dioxane and water (3:1, 11 ml). A 10% aqueous osmium tetroxide solution (0.5 ml) was added. The resultant solution was stirred at room temperature for 5 min. A solution of sodium periodate (550 mg) in water was then added dropwise. The reaction mixture was allowed to stir for 16 hours. Water was added, and the aqueous mixture was extracted with ethyl acetate (3×). The combined extracts were washed with water (once) and dried (MgSO4). Rotary evaporation of the solution gave a crude product which was purified by preparative thin layer chromatography (PTLC) on silica gel. Development with hexane/ethyl acetate (2:1) produced three bands. The lowest band (Rf 0.66) was scraped off the plate and eluted with methanol to yield 25 mg of 3,3-diphenyl-4-oxo-hexanal.

reactant | 4,4-diphenyl-6-hepten-3-one | 144 mg | C1(=CC=CC=C1)C(C(CC)=O)(CC=C)C1=CC=CC=C1 | C19H20O
reactant | sodium periodate | 550 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 11 ml | O | H2O
catalyst | osmium tetroxide | 0.5 ml | [Os](=O)(=O)(=O)=O
product | 3,3-diphenyl-4-oxo-hexanal | 25 mg | C1(=CC=CC=C1)C(CC=O)(C(CC)=O)C1=CC=CC=C1 | C18H18O2
